US08034806B2
To a solution of 4-bromo-2-(hydroxymethyl)benzamide III-2 (3.50 g, 15.2 mmol) in THF (100 mL) was added Ph3P (4.78 g, 18.3 mmol) and DIAD (3.38 g, 16.7 mmol). The reaction was stirred at room temperature 20 h. The reaction mixture was concentrated under vacuum and purified by column chromatography (silica gel) using 0 to 25% EtOAc in hexanes to afford 5-bromoisoindolin-1-one III-3 as a white solid (786 mg, 24%) as a white solid; 1H-nmr (400 MHz, CDCl3) δ 7.80 (d, J=8.0 Hz, 1H), 7.70 (s, 1H), 7.67 (s, 2H), 5.31 (s, 2H); LC (254 nM) 4.88 min (>98%); MS (ESI) m/z=212.8, 214.8.

reactant | 4-bromo-2-(hydroxymethyl)benzamide | BrC1=CC(=C(C(=O)N)C=C1)CO | C8H8BrNO2
reactant | Ph3P | 18.3 mmol, 4.78 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 16.7 mmol, 3.38 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-bromoisoindolin-1-one | 786 mg, 24% | BrC=1C=C2CNC(C2=CC1)=O | C8H6BrNO
